US08431563B2
A 250-mL round-bottomed flask was charged with di-tert-butyl (2S)-2-(((2-methylpropyl)amino)methyl)-1,4-piperazinedicarboxylate (0.77 g, 2.1 mmol), DMAP (0.0287 g, 0.235 mmol) and DIPEA (1.45 mL, 8.29 mmol) and CH2Cl2 (10 mL). Methanesulfonyl chloride (0.321 mL, 4.15 mmol) was added drop wise at room temperature. The mixture was stirred for 30 min and partitioned between water (30 mL) and CH2Cl2 (20 mL). The aqueous phase was extracted with CH2Cl2 (30 mL) and the combined organic phases were washed with saturated aqueous NaCl (50 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was purified by column chromatography (50 g of silica gel, 10 to 70% EtOAc in hexanes) to afford di-tert-butyl (2R)-2-(((2-methylpropyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate (0.842 g) as a white solid.

reactant | di-tert-butyl (2S)-2-(((2-methylpropyl)amino)methyl)-1,4-piperazinedicarboxylate | 2.1 mmol, 0.77 g | CC(CNC[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C19H37N3O4
reactant | DIPEA | 8.29 mmol, 1.45 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Methanesulfonyl chloride | 4.15 mmol, 0.321 mL | CS(=O)(=O)Cl | CH3ClO2S
catalyst | DMAP | 0.235 mmol, 0.0287 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | di-tert-butyl (2R)-2-(((2-methylpropyl)(methylsulfonyl)amino)methyl)-1,4-piperazinedicarboxylate | 0.842 g | CC(CN(S(=O)(=O)C)C[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C | C20H39N3O6S
